US06297258B1
4-(3-Chloro-4-fluoro-phenylamino)-7-methoxy-6-pyrrolidin-1-yl-quinoline-3-carbonitrile
A mixture of 2.5 g of 6-(4-chlorobutylamino)-4-(3-chloro-4-fluorophenyamino)-7-methoxy-3-quinolinecarbonitrile, 7.54 g of morpholine, and 0.17 g of sodium iodide in 30 ml of dimethylformamide was stirred at 750° C. for 7 hrs. The mixture was poured into dilute sodium bicarbonate and solid was collected. This material was dissolved in ethylacetate. The solution was dried over magnesium sulfate. The solvent was removed and the residue was chromatographed on silica gel using ethyl acetate-methanol-triethylamine mixtures. A more polar component (0.54 g) was 4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-6-(4-morpholin-4-yl-butylamino)-quinoline-3-carbonitrile; a less polar component (0.28 g) is the compound of this invention, 4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-6-pyrrolidin-1-yl-quinoline-3-carbonitrile, obtained as a yellow solid: mass spectrum electrospray, m/e): M+H 397.4.

reactant | 6-(4-chlorobutylamino)-4-(3-chloro-4-fluorophenyamino)-7-methoxy-3-quinolinecarbonitrile | 2.5 g | ClCCCCNC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C21H19Cl2FN4O
reactant | morpholine | 7.54 g | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 0.17 g | [I-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(3-Chloro-4-fluoro-phenylamino)-7-methoxy-6-pyrrolidin-1-yl-quinoline-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)N1CCCC1)OC)C#N | C21H18ClFN4O
